US08710236B2
A mixture consisting of Meldrum's acid (2 g, 13.9 mmol), terephthalic acid monomethyl ester (2.5 g, 13.9 mmol), EDC (3.5 g, 18 mmol) and DMAP (2.2 g, 18 mmol) in DCM (50 mL) was stirred at RT overnight. The reaction mixture was diluted with DCM (to ˜100 mL) then washed with water (2×50 mL). The organic solution was dried over Na2SO4 and concentrated to afford 3.9 g of crude 4-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxane-5-carbonyl)-benzoic acid methyl ester as a yellow solid. The crude was carried on as is for the next step.

reactant | Meldrum's acid | 13.9 mmol, 2 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | terephthalic acid monomethyl ester | 13.9 mmol, 2.5 g | COC(C1=CC=C(C(=O)O)C=C1)=O | C9H8O4
reactant | EDC | 18 mmol, 3.5 g
catalyst | DMAP | 18 mmol, 2.2 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | ˜100 mL | C(Cl)Cl | CH2Cl2
product | 4-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxane-5-carbonyl)-benzoic acid methyl ester | 3.9 g | COC(C1=CC=C(C=C1)C(=O)C1C(OC(OC1=O)(C)C)=O)=O | C15H14O7
